US09126931B2
8-[1-(Imidazole-1-sulfonyl)-piperidin-4-yl]-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
According to the method disclosed in Journal of Organic Chemistry, 2003, page 115, 6,6-dimethyl-11-oxo-8-piperidin-4-yl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound B3-13-2, 10 mg, 0.027 mmol) was reacted with 3-(imidazole-1-sulfonyl)-1-methyl-3H-imidazol-1-ium (19 mg, 2 eq.). After removing the solvent, the residues were purified by liquid chromatography to obtain the title compound (3 mg).

reactant | 6,6-dimethyl-11-oxo-8-piperidin-4-yl-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.027 mmol, 10 mg | CC1(C2=C(C(C=3C4=CC=C(C=C4NC13)C#N)=O)C=CC(=C2)C2CCNCC2)C | C24H23N3O
reactant | 3-(imidazole-1-sulfonyl)-1-methyl-3H-imidazol-1-ium | 19 mg, 2 eq. | N1(C=NC=C1)S(=O)(=O)N1C=[N+](C=C1)C
product | 8-[1-(Imidazole-1-sulfonyl)-piperidin-4-yl]-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 3 mg | N1(C=NC=C1)S(=O)(=O)N1CCC(CC1)C=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C27H25N5O3S
